Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Levaquin
 
Attending: ___.
 
Chief Complaint:
RLQ/hip pain
 
Major Surgical or Invasive Procedure:
PEG placement - ___

 
History of Present Illness:
___ with ___ disease, esophageal dysmotility, dementia 
who presents with hip pain versus abdominal pain. She is 
accompanied by her son, who assists with a history. He states 
that today she began complaining of pain in her right side with 
ambulation. 

On reevaluation in the ED, patient coughing and having some mild 
difficulty breathing. She received nebulizer treatment with some 
improvement, however she is noted to have a new oxygen 
requirement, with O2 sat in the high ___ on room air. Patient 
noted to be fatigued, weak, with difficulty swallowing ensure 
given by family, concern for aspiration, very weak cough. She 
was started on empiric treatment for aspiration PNA. Reportedly 
was too weak to work with ___ in the ED, and was admitted to 
medicine for weakness and hypoxia.

 
Past Medical History:
___ Disease  
HTN 
HLD   
Esophageal dysmotility
Bilateral blindness  
Reactive airway disease 
Bronchitis 
Hypothyroidism   
 
Social History:
___
Family History:
Reviewed and none pertinent to this hospitalization
 
Physical Exam:
ADMISSION EXAM
==============
VITALS: T 98.2, BP 135/53, HR 93, RR 24, ___ 
General: alert, restless. Trying to get out of bed.
HEENT: Sclerae anicteric, MMM, oropharynx clear.
CV: RRR, S1+S2, no M/R/G 
Lungs: faint scattered ronchi throughout, faint crackles at 
bases 
Abdomen: non-distended, soft, non-tender. No rebound or 
guarding.
Ext: WWP, no edema. 
Skin: Warm, dry, no rashes or notable lesions.  
Neuro: Resting tremor in all 4 extremities. Restless and 
constantly moving around in bed. Alert, oriented to self and 
hospital. Perseverating on getting water.

DSICHARGE EXAM
==============
VITALS: ___ 0752 Temp: 99.9 BP: 105/64 R
Lying HR: 88 RR: 20 O2 sat: 94% O2 delivery: RA 
General: alert, lying propped up in in bed. NAD.
HEENT: Sclerae anicteric, MMM, oropharynx clear.
CV: RRR, S1+S2, no M/R/G 
Lungs: faint scattered ronchi throughout
Abdomen: non-distended, soft, non-tender. Has PEG in LUQ, no
surrounding erythema or drainage/bleeding. Non-tender.
Back: no TTP over right side/flank
Ext: WWP, no edema. 
Skin: Warm, dry, no rashes or notable lesions.  
Neuro: Resting tremor in all 4 extremities. Lying propped up in
bed, slouched to right side. Alert, oriented to self and
hospital. 
 
Pertinent Results:
ADMISSION LABS
==============
___ 09:06PM   WBC-12.3* RBC-3.94 HGB-11.8 HCT-37.9 MCV-96 
MCH-29.9 MCHC-31.1* RDW-14.6 RDWSD-51.8*
___ 09:06PM   NEUTS-79.1* LYMPHS-11.3* MONOS-8.1 EOS-0.5* 
BASOS-0.2 IM ___ AbsNeut-9.71* AbsLymp-1.39 AbsMono-1.00* 
AbsEos-0.06 AbsBaso-0.03
___ 09:30PM   GLUCOSE-107* UREA N-18 CREAT-0.6 SODIUM-146 
POTASSIUM-4.2 CHLORIDE-109* TOTAL CO2-26 ANION GAP-11
___ 09:30PM   CALCIUM-8.8 PHOSPHATE-3.2 MAGNESIUM-2.2
___ 09:06PM   GLUCOSE-98 UREA N-24* CREAT-0.7 SODIUM-149* 
POTASSIUM-4.4 CHLORIDE-105 TOTAL CO2-29 ANION GAP-15
___ 09:06PM   ALT(SGPT)-<5 AST(SGOT)-23 ALK PHOS-74 TOT 
BILI-1.2
___ 09:06PM   LIPASE-14
___ 09:06PM   ALBUMIN-4.2 CALCIUM-9.8 PHOSPHATE-3.3 
MAGNESIUM-2.3

MICRO
=====
None

DISCHARGE LABS
==============
___ 06:30AM BLOOD WBC-10.5* RBC-3.18* Hgb-9.5* Hct-30.4* 
MCV-96 MCH-29.9 MCHC-31.3* RDW-15.0 RDWSD-51.8* Plt ___
___ 06:30AM BLOOD Glucose-131* UreaN-16 Creat-0.4 Na-138 
K-4.3 Cl-103 HCO3-27 AnGap-8*
___ 06:30AM BLOOD Calcium-8.7 Phos-2.2* Mg-2.2

IMAGING/STUDIES
================

CT ABD/PELVIS ___
1. No acute abnormality within the abdomen or pelvis. 
2. Sigmoid diverticulosis, without evidence of acute 
diverticulitis. 
3. Stable compression deformities of the T11, L1, and L2 
vertebral bodies. 

CXR ___
Left basilar atelectasis.  No definite acute cardiopulmonary 
abnormality.

G-TUBE PLACEMENT ___
A 65 cm, 5 ___ glide catheter was negotiated through the 
Nares down to the stomach using a 0.035 glidewire.  Position in 
the stomach was confirmed with injection of air.  The tube was 
then secured and used for insufflation.  A scout image of the 
abdomen was obtained. The stomach was insufflated through the 
indwelling nasogastric tube. Under fluoroscopic guidance, 2 T 
fastener buttons were sequentially deployed elevating the 
stomach to the anterior abdominal wall. Intra-gastric position 
was confirmed with aspiration of air and injection of contrast. 
A 19 gauge needle was introduced under fluoroscopic guidance and 
position confirmed using an injection of dilute contrast. A 
Amplatz wire was introduced into the  stomach. A small skin 
incision was made along the needle and the needle was removed. 
After sequential dilation using 12, 14 in 16 ___ dilators, a 
18 ___  peel-away sheath was placed.  A 14 ___ MIC 
gastrostomy catheter was advanced over the wire into position. 
The catheter was secured by instilling dilute contrast into the 
balloon.  Contrast injection confirmed intragastric  position.  
The catheter was then flushed, capped and secured. Sterile 
dressings were applied. The patient tolerated the procedure well 
and there were no immediate 
complications. 

 
Brief Hospital Course:
___ with ___ disease, esophageal dysmotility, dementia 
who presented with hip pain versus abdominal pain, developed 
acute hypoxia while in the ED from aspiration. Admitted to the 
hospital for hypoxia.

#GOALS OF CARE:
#CHRONIC ASPIRATION
#UNINTENTIONAL WEIGHT LOSS
   The patient has oropharyngeal dysphagia due to her advanced 
___ disease and esophageal dysphagia due to her 
esophageal dysmotility. She had been taking a honey-thick diet 
at home (mostly Boost), but had been losing weight despite the 
heroic efforts of her son to encourage oral feedings, and also 
had a clinically overt aspiration event in the ED despite 
texture modification of her diet. She was seen by speech and 
swallow, who felt that even if we thicken food enough to help 
with the oropharyngeal phase of swallow, there is little we can 
do about the esophageal issue; she was recommended for strict 
NPO. 
    Given that the dysphagia is related to issues other than her 
dementia (which is not end-stage), we felt she would be a 
candidate for a feeding tube, if within the goals of care. It 
was difficult to directly understand the patient's own goals - 
there is prior documentation that the patient would refuse a 
feeding tube, and she was able to say in AM on ___ (in front 
of myself, attending MD, RN, and son) that she would not want a 
feeding tube. Since then, she said "I'm thinking about it" when 
asked about wanting a feeding tube. It was very difficult to 
interpret patient's wishes in this setting, and as such, we had 
to rely on the patient's son and HCP ___, who is her 
___ caregiver at home. We discussed with him that feeding tubes 
do not eliminate the risk of aspiration, but that it would 
probably be safer than oral feedings and would at least help to 
deliver nutrition more reliably and successfully. After some 
vacillation, he ultimately decided he was strongly in favor of a 
feeding tube.
    As such, interventional radiology was consulted and a PEG 
was successfully placed on ___. Tube feeds initiated on 
___ - pt tolerated well prior to discharge. She will receive 
cycled tube feeds 16 hours per day. She is also continued on her 
home BID PPI (to reduce the acidity of gastric contents should 
she micro-aspirate) and on BID chlorhexidine mouthwash.

#ACUTE HYPOXEMIC RESPIRATORY FAILURE:
#REACTIVE AIRWAY DISEASE:
#CHRONIC ASPIRATION RISK:
    Hypoxia resolved over time - ultimately it was attributed to 
aspiration pneumonitis. She is followed by Dr ___ 
pulmonology - she does not have a formal pulmonary diagnosis, as 
she is unable to cooperate for PFTs, but seems to have some mild 
pulmonary fibrosis and some kind of reactive airway disease. No 
symptoms this admission suggestive of exacerbation of reactive 
airway disease. She was continued on all of her home 
inhalers/nebulizers. 

#RIGHT SIDE PAIN:
   Pt had originally presented with pain in R side while 
ambulating - though per prior ___ records, pt is largely 
wheelchair bound and requires a lift at home for transfers, so 
unclear how much she is ambulating. She has no pain on arrival 
to the floor and no pain is elicited on exam. Had CT abd without 
any findings to explain possible RLQ pain. Has had intermittent 
constipation; ensured robust bowel regimen. Clinically felt to 
be consistent with muscle spasms in the setting of PD - treated 
with ibuprofen and acetaminophen.

#HYPERNATREMIA:
   Na 149 on admission, suspect it is due to limited free water 
intake (in the setting of needing nectar-thickened liquids). 
Resolved once started on tube feeds with free water flushes.

#PARKINSONS DISEASE:
   Has progressive ___ disease with associated 
esophageal dysmotility. Continued home carbidopa-levodopa. 
Continued home Hyoscyamine 0.125 mg SL TID:PRN esophageal spasm

#DEMENTIA:
Probably moderate in severity, but hard to assess given her 
difficulty communicating in the setting her advanced PD. Mental 
status at baseline, per son.

#HLD:
Continued home atorvastatin 20mg daily.

#HYPOTHYROIDISM:
Continued home Levothyroxine 25 mcg PO/NG DAILY.

TRANSITIONAL ISSUES:
==================
[] Started on home tube feeds (supplied via ___. Some meds 
have been changed to liquid or crushable formulations.
[] Please note that her son is very involved in her care and 
provides her with excellent (essentially LTAC-level) elder care 
at home. However, his high standards for care quality and his 
granular involvement in details of care can at times interfere 
with care delivery. For any subsequent admissions, please refer 
to "Team Meeting" note from ___ for details on agreements 
that have been reached with ___ about boundaries on his intimate 
involvement with his mother's inpatient care. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
2. ALPRAZolam 0.25 mg PO TID:PRN anxiety 
3. Atorvastatin 20 mg PO QPM 
4. carbidopa 25 mg oral BID 
5. Carbidopa-Levodopa (___) 1.5 TAB PO Q24H 
6. Chlorhexidine Gluconate 0.12% Oral Rinse 15 mL ORAL BID 
7. Fluticasone Propionate 110mcg 2 PUFF IH BID 
8. Ipratropium Bromide Neb 1 NEB IH Q6H 
9. Levalbuterol Neb 0.63 mg NEB Q6H:PRN sob 
10. Levothyroxine Sodium 25 mcg PO DAILY 
11. melatonin 3 mg oral QHS 
12. Multivitamins W/minerals 1 TAB PO DAILY 
13. Mylanta 10 mL oral QID:PRN heartburn 
14. Perforomist (formoterol fumarate) 20 mcg/2 mL inhalation BID 

15. Polyethylene Glycol 17 g PO DAILY 
16. PredniSONE 10 mg PO DAILY 
17. Bisacodyl 10 mg PO DAILY:PRN Constipation 
18. Senna 17.2 mg PO QHS 
19. Carbidopa-Levodopa (___) 2 TAB PO Q24H 
20. Carbidopa-Levodopa (___) 2 TAB PO Q24H 
21. Carbidopa-Levodopa (___) 1.5 TAB PO Q24H 
22. Carbidopa-Levodopa (___) 1 TAB PO Q24H 
23. Carbidopa-Levodopa (___) 1 TAB PO Q24H 
24. Esomeprazole 20 mg Other BID 
25. Hyoscyamine 0.125 mg SL TID:PRN esophageal spasm 

 
Discharge Medications:
1.  Acetaminophen (Liquid) 975 mg PO Q8H 
RX *acetaminophen 500 mg/15 mL 30 mL by mouth every eight (8) 
hours Disp #*3 Liter Refills:*0 
2.  Lansoprazole Oral Disintegrating Tab 30 mg PO BID 
RX *lansoprazole 30 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0 
3.  Lidocaine 5% Patch 1 PTCH TD QPM Pain 
RX *lidocaine [Lidoderm] 5 % 1 patch daily Disp #*30 Patch 
Refills:*0 
4.  Milk of Magnesia 30 mL PO Q8H 
Hold for loose stool 
RX *magnesium hydroxide [Milk of Magnesia] 400 mg/5 mL 30 mL by 
mouth every eight (8) hours Refills:*0 
5.  Multi Vitamin (multivit-minerals-ferrous fum) 9 mg iron/15 
mL oral DAILY 
Any liquid multivitamin is OK. Give the amount suggested by the 
manufacturer. 
RX *multivit-minerals-ferrous fum [Complete 
Multivitamin-Mineral] 9 mg iron/15 mL 30 mL by mouth daily Disp 
#*1 Bottle Refills:*0 
6.  senna 17.6 mg/10 mL oral QHS 
Hold for loose stools 
RX *sennosides [senna] 8.8 mg/5 mL 10 mL by mouth at bedtime 
Refills:*0 
7.  Multivitamins W/minerals 15 mL PO DAILY  
8.  Atorvastatin 20 mg PO QPM  
9.  Carbidopa-Levodopa (___) 1.5 TAB PO Q24H  
10.  Carbidopa-Levodopa (___) 2 TAB PO Q24H  
11.  Carbidopa-Levodopa (___) 2 TAB PO Q24H  
12.  Carbidopa-Levodopa (___) 1.5 TAB PO Q24H  
13.  Carbidopa-Levodopa (___) 1 TAB PO Q24H  
14.  Carbidopa-Levodopa (___) 1 TAB PO Q24H  
15.  carbidopa 25 mg oral BID  
16.  Chlorhexidine Gluconate 0.12% Oral Rinse 15 mL ORAL BID  
17.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
18.  Hyoscyamine 0.125 mg SL TID:PRN esophageal spasm  
19.  Ipratropium Bromide Neb 1 NEB IH Q6H  
20.  Levalbuterol Neb 0.63 mg NEB Q6H:PRN sob  
21.  Levothyroxine Sodium 25 mcg PO DAILY  
22.  melatonin 3 mg oral QHS  
23.  Mylanta 10 mL oral QID:PRN heartburn  
24.  Perforomist (formoterol fumarate) 20 mcg/2 mL inhalation 
BID  
25.  Polyethylene Glycol 17 g PO DAILY  
26.  PredniSONE 10 mg PO DAILY  
27.Portable suction device
Please supply portable suction device, connector tubing, 
Yankauer suction tip, and cannisters.
Dx: ___ disease, esophageal dysmotility
___: 13 months

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSES: 
Acute hypoxic respiratory failure due to aspiration 
___ disease 
Esophageal dysmotility 
 
SECONDARY DIAGNOSES: 
Muscle spasms 
 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
WHY WERE YOU ADMITTED TO THE HOSPITAL?
- Your oxygen level was low and you were requiring extra oxygen.

WHAT HAPPENED WHILE YOU WERE IN THE HOSPITAL?
- You had multiple episodes of aspiration while you were here; 
ultimately, it was decided that you would have a feeding tube 
placed. You had a G-tube placed and started to receive nutrition 
that way.
- You were seen by our nutritionists and speech/language 
pathologists - it was determined that, due to your risk of 
aspiration, it was not safe for you to eat or drink anything by 
mouth. You should get all of your nutrition and medicines 
through your feeding tube. 
- You were given fluid through an IV.
- Your oxygen level improved and was stable without extra 
oxygen.
- We gave you Tylenol and ibuprofen for the pain in your right 
side.

WHAT WILL HAPPEN WHEN YOU LEAVE THE HOSPITAL?
- Continue to take all of your medicines as prescribed.
- Continue your nutrition through your feeding tube. We 
recommend that, if you truly want to minimize your risk of 
aspiration, you do not eat or drink anything by mouth. 
- That said... many people sometimes decide to do unsafe things 
that make them happy. If you feel it is important for quality of 
life to accept the risk of taking a few sips of honey-thick 
liquid once in a while, that is not totally unreasonable. People 
want to stay healthy, but they want to be happy too! 
- Please keep all of your appointments, as scheduled.
 
Followup Instructions:
___